US09162971B2
(3-c) (2E)-4-Allyloct-2-enoic acid
Malonic acid (99.90 g, 0.96 mol), acetonitrile (360 mL), morpholine (26 mL, 0.3 mol), and pyridine (97 mL, 1.2 mol) were added in this order to the solution of 2-allylhexanal in toluene obtained by the method described above under a nitrogen atmosphere, and the mixture was slowly warmed to 72 to 82° C. over 1 hour and 20 minutes and stirred at this temperature for approximately 24 hours. The reaction mixture was cooled to room temperature. To the reaction mixture, water (480 mL) was added, and concentrated hydrochloric acid (130 mL) was added to separate an organic layer. The aqueous layer was subjected to extraction with toluene (180 mL), and the extract was combined with the organic layer, followed by extractions into aqueous layers with a 2 M aqueous NaOH solution (358 mL) and a 1.3 M aqueous NaOH solution (134 mL) in this order. The aqueous layers were combined and then adjusted to be acidic by the addition of concentrated hydrochloric acid (80 mL), followed by two extractions with toluene (240 mL and 180 mL). The organic layers were combined and then washed with water (120 mL). The organic layer was concentrated under reduced pressure to obtain the title compound (99.11 g, brown oil substance).

reactant | Malonic acid | 0.96 mol, 99.90 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | morpholine | 0.3 mol, 26 mL | N1CCOCC1 | C4H9NO
reactant | pyridine | 1.2 mol, 97 mL | N1=CC=CC=C1 | C5H5N
reactant | 2-allylhexanal | C(C=C)C(C=O)CCCC | C9H16O
reactant | hydrochloric acid | 130 mL | Cl | ClH
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | water | 480 mL | O | H2O
solvent | acetonitrile | 360 mL | C(C)#N | C2H3N
product | (2E)-4-Allyloct-2-enoic acid | 99.11 g | C(C=C)C(/C=C/C(=O)O)CCCC | C11H18O2
